US06352977B1
A suspension of potassium t-butoxide (1.44 kg) in dimethylformamide(6.61), cooled to −5° C. to −10° C., was treated with a mixture of 2-nitroanisole (690 g) and methyl dichloroacetate (915 g) over 4 hours, whilst maintaining the temperature below −5° C. The reaction mixture was then treated with acetic acid (770 ml), then with water (6.6 l) and then extracted three times with tert-butyl methyl ether (5.5 l). The combined extracts were washed with water (5.5 l), then with saturated sodium bicarbonate solution (5.5 l), then with saturated brine (5.5 l) and then dried over magnesium sulphate to give a solution of methyl α-chloro-3-methoxy-4-nitrophenylacetate. This solution was concentrated to half volume under reduced pressure and then treated with tetrahydrofuran (2l), followed by triethylamine (751 ml), followed by 10 % palladium on chareoal (58.4 g) and the mixture was hydrogenated under a pressure of 50 psi hydrogen at 50° C. for 8 hours. The mixture was cooled to room temperature and filtered. The filtrate was dried over magnesium sulphate to give a solution of methyl 4-amino-3-methoxyphenylacetate which was heated to reflux and then treated with o-tolyl isocyanate (598.5 g) over 30 minutes. After heating at reflux temperature for a further 3 hours, during which time a solid was deposited, the mixture was cooled to room temperature. The solid was collected, washed twice with tert-butyl methyl ether (4 l), then dried in a vacuum oven at 60° C. to give the title compound (764.8 g) as a white solid, m.p. 167-168° C.

reactant | potassium t-butoxide | 1.44 kg | CC(C)([O-])C.[K+]
reactant | 2-nitroanisole | 690 g | [N+](=O)([O-])C1=C(C=CC=C1)OC | C7H7NO3
reactant | methyl dichloroacetate | 915 g | ClC(C(=O)OC)Cl | C3H4Cl2O2
solvent | acetic acid | 770 ml | C(C)(=O)O | C2H4O2
product | methyl α-chloro-3-methoxy-4-nitrophenylacetate | ClC(C(=O)OC)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C10H10ClNO5
